US06921821B2
4,6,7-Trichlorochromen-2-one
6,7-Dichloro-4-oxo-4H-chromene-2-carboxylic acid (19.1 mmol) and thionyl chloride (20 mL) were carefully combined. DMF (0.2 mL) was added, and the dark, hetereogeneous solution was warmed to 70° C. After 16 h, the black homogeneous solution was cooled to ambient temperature and concentrated to a dark residue. The residue was diluted with CH2Cl2 (75 mL), washed with saturated aqueous NaHCO3 (2×75 mL), washed with brine (1×50 mL), dried (MgSO4), filtered, and concentrated to an orange residue that was passed through a plug of silica gel (1:1 hexane:EtOAc). The filtrate was concentrated to a beige solid (3.2 g) that was recrystallized from CH3CN to provide the desired solid (2.6 g, 55%) as off-white crystals. MS (APCI) m/z 273 [M+Na]+; 1H NMR (300 MHz, DMSO-D6) δ ppm 7.06 (s, 1H) 7.99 (s, 1H) 8.06 (s, 1H).

reactant | 6,7-Dichloro-4-oxo-4H-chromene-2-carboxylic acid | 19.1 mmol | ClC=1C=C2C(C=C(OC2=CC1Cl)C(=O)O)=O | C10H4Cl2O4
reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | 4,6,7-Trichlorochromen-2-one | 2.6 g, 55% | ClC1=CC(OC2=CC(=C(C=C12)Cl)Cl)=O | C9H3Cl3O2
